.SUBCKT  MAX4222    1   201 198  51 40
rf 40 2 200
rf2 2 201 200
ISUPP 99 0 5MA
ISUPPN 50 0 -5MA
VNEGREF 51 50 100MV
VPOSREF 198 99 0
*** INPUT STAGE
I1 99  5 287U
I2  4 50 287U
Q1  50  3 5 QPN
Q2  99  3 4 QNN 
R1   5 6 633
C1   6 99 .85P
***.95
R2  4  7 633
C2   7 50 .85P
*** .95
R3 99  8 633
V1  99 10 .3
RE1 10 30 130
D1  30  8 Dp
R4 50  9 633
V2  11 50 .3
RE2 11 31 130
D2   9 31 Dp
Q3   8  6 2 QNI
Q4   9  7 2 QPI
R6  1 99 20meg
R7  1 50 20meg
IB1 1 99 5.4UA
IB2 99  2 5.4UA
VOS 3 1 0V
CIN1 1  0 1P
CIN2 2  0 1P
*
**************SECOND STAGE**************
*
********************Isup  99 50 4.47M
R8  99 49 1meg
R9  49 50 1meg
V3  99 16 0
*pos swig
D3  15 16 DP
D4  17 15 DP
V4  17 50 0
*neg swing
EH  99 98 99 49 1
G1  98 15 POLY(2) 99 8 50 9 0 1.58E-3 1.58E-3
R5  98 15 2.372MEG
*** ***********************  1st pole here with r5, and c3
*C3 98 15 .25
C3 98 15 .153P
*** was .153
***************POLE STAGE*************** 
*
*Fp=250MHz
G2  98 20 15 49 1E-3
R14 98 20 1K
*C4  98 20 .692P
*C4 98 20 1P
*
***************POLE STAGE*************** 
*
*Fp=500 MHz
G3  98 21 20 49 1E-3
R15 98 21 1K
*C5  98 21 .03P
*
***************POLE STAGE*************** 
*
*Fp=250 MHz
G4  98 22 21 49 1E-3
R16 98 22 1K
*C6  98 22 .346P
*
***************POLE STAGE*************** 
*
*Fp=250 MHz
G5  98 23 22 49 1E-3
R17 98 23 1K
*C7  98 23 .246P
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
F5  99 35 VA8 1
D7  36 35 DX
VA7 99 36 0
D8  35 99 DX
E1  99 37 99 23 1
VA8 37 38 0
* NEG ISC
R35 38 405 20
R36 38 406 20 
D35 405 40 DP
D36 40 407 DP
VNEGOFFSET 406 407 0MV
*** was 12ohms
V5  33 40 3
D5  23 33 DP
V6  40 34 3V
D6  34 23 DP
CF1 40  2 1.8P
*** was 2.1pf
*
***************MODELS USED**************
*
.MODEL QNI NPN(IS=1E-14 BF=10E4 VAF=15 KF=6.7E-14)
.MODEL QPI PNP(IS=1E-14 BF=10E4 VAF=15 KF=6.7E-14)
.MODEL QNN NPN(IS=1E-14 BF=10E4 VAF=15 KF=4.13E-13)
.MODEL QPN PNP(IS=1E-14 BF=10E4 VAF=15 KF=4.13E-13)
.MODEL DX  D(IS=1E-15)
.MODEL DY  D(IS=1E-17)
.MODEL DN  D(KF=1.667E-9 AF=1 XTI=0 EG=.3)
.MODEL DP D(N=0.001)
*** FOR CONVERGENCE PROBLEMS CHANGE N, IN DP TO N=0.1
*** MAKING N=0.001 A PERFECT DIODE, CONVERGENCE MAY BE PROBLEM OVER TEMP.
*
.ENDS MAX4222
